* Subcircuit SC_M74HCT245
.subckt SC_M74HCT245 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ? net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ ? net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ ? 
* c:\fossee2\esim\library\subcircuitlibrary\sc_m74hct245\sc_m74hct245.cir
* u4  net-_u1-pad4_ net-_u10-pad2_ net-_u1-pad16_ d_tristate
* u8  net-_u15-pad3_ net-_u10-pad2_ net-_u1-pad15_ d_tristate
* u9  net-_u1-pad6_ net-_u10-pad2_ net-_u1-pad14_ d_tristate
* u5  net-_u1-pad7_ net-_u10-pad2_ net-_u1-pad13_ d_tristate
* u6  net-_u1-pad8_ net-_u10-pad2_ net-_u1-pad12_ d_tristate
* u7  net-_u1-pad9_ net-_u10-pad2_ net-_u1-pad11_ d_tristate
* u3  net-_u1-pad3_ net-_u10-pad2_ net-_u1-pad17_ d_tristate
* u10  net-_u1-pad2_ net-_u10-pad2_ net-_u1-pad18_ d_tristate
* u16  net-_u1-pad16_ net-_u12-pad3_ net-_u1-pad4_ d_tristate
* u15  net-_u1-pad15_ net-_u12-pad3_ net-_u15-pad3_ d_tristate
* u17  net-_u1-pad14_ net-_u12-pad3_ net-_u1-pad6_ d_tristate
* u18  net-_u1-pad13_ net-_u12-pad3_ net-_u1-pad7_ d_tristate
* u19  net-_u1-pad12_ net-_u12-pad3_ net-_u1-pad8_ d_tristate
* u20  net-_u1-pad11_ net-_u12-pad3_ net-_u1-pad9_ d_tristate
* u14  net-_u1-pad17_ net-_u12-pad3_ net-_u1-pad3_ d_tristate
* u13  net-_u1-pad18_ net-_u12-pad3_ net-_u1-pad2_ d_tristate
* u2  net-_u1-pad19_ net-_u11-pad2_ d_inverter
* u11  net-_u1-pad1_ net-_u11-pad2_ net-_u10-pad2_ d_and
* u12  net-_u1-pad19_ net-_u1-pad1_ net-_u12-pad3_ d_nor
a1 net-_u1-pad4_ net-_u10-pad2_ net-_u1-pad16_ u4
a2 net-_u15-pad3_ net-_u10-pad2_ net-_u1-pad15_ u8
a3 net-_u1-pad6_ net-_u10-pad2_ net-_u1-pad14_ u9
a4 net-_u1-pad7_ net-_u10-pad2_ net-_u1-pad13_ u5
a5 net-_u1-pad8_ net-_u10-pad2_ net-_u1-pad12_ u6
a6 net-_u1-pad9_ net-_u10-pad2_ net-_u1-pad11_ u7
a7 net-_u1-pad3_ net-_u10-pad2_ net-_u1-pad17_ u3
a8 net-_u1-pad2_ net-_u10-pad2_ net-_u1-pad18_ u10
a9 net-_u1-pad16_ net-_u12-pad3_ net-_u1-pad4_ u16
a10 net-_u1-pad15_ net-_u12-pad3_ net-_u15-pad3_ u15
a11 net-_u1-pad14_ net-_u12-pad3_ net-_u1-pad6_ u17
a12 net-_u1-pad13_ net-_u12-pad3_ net-_u1-pad7_ u18
a13 net-_u1-pad12_ net-_u12-pad3_ net-_u1-pad8_ u19
a14 net-_u1-pad11_ net-_u12-pad3_ net-_u1-pad9_ u20
a15 net-_u1-pad17_ net-_u12-pad3_ net-_u1-pad3_ u14
a16 net-_u1-pad18_ net-_u12-pad3_ net-_u1-pad2_ u13
a17 net-_u1-pad19_ net-_u11-pad2_ u2
a18 [net-_u1-pad1_ net-_u11-pad2_ ] net-_u10-pad2_ u11
a19 [net-_u1-pad19_ net-_u1-pad1_ ] net-_u12-pad3_ u12
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u4 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u8 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u9 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u5 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u6 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u7 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u3 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u10 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u16 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u15 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u17 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u18 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u19 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u20 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u14 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u13 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u12 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SC_M74HCT245