* c:\fossee\esim\library\subcircuitlibrary\m51206_subcircuit\m51206_subcircuit.cir

.include D.lib
.include PNP.lib
.include NPN.lib
.include ZenerD1N750.lib
q5 net-_i2-pad2_ net-_q5-pad2_ gnd Q2N2222
q6 net-_i3-pad2_ net-_i2-pad2_ gnd Q2N2222
q7 net-_i4-pad2_ net-_i3-pad2_ gnd Q2N2222
q8 net-_q8-pad1_ net-_i4-pad2_ gnd Q2N2222
q1 net-_d1-pad2_ net-_q1-pad2_ net-_i1-pad1_ Q2N2222
q3 net-_q2-pad1_ net-_q3-pad2_ net-_i1-pad1_ Q2N2222
q2 net-_q2-pad1_ net-_d1-pad2_ net-_d1-pad1_ Q2N2907A
q4 net-_q4-pad1_ net-_q2-pad1_ net-_d1-pad1_ Q2N2907A
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d2 gnd net-_d1-pad1_ D1N750
r1  net-_q4-pad1_ net-_q5-pad2_ 1k
i2 net-_d1-pad1_ net-_i2-pad2_  dc 80u
i3 net-_d1-pad1_ net-_i3-pad2_  dc 80u
i4 net-_d1-pad1_ net-_i4-pad2_  dc 80u
i1 net-_i1-pad1_ gnd  dc 80u
* u1  net-_q1-pad2_ net-_q3-pad2_ net-_q8-pad1_ net-_d1-pad1_ gnd gnd gnd gnd port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
