* Subcircuit M5223_My
.subckt M5223_My net-_q1-pad2_ net-_q6-pad2_ net-_i4-pad2_ net-_i1-pad1_ net-_i4-pad1_ 
* c:\fossee\esim\library\subcircuitlibrary\m5223_my\m5223_my.cir
.include NPN.lib
.include PNP.lib
q4 net-_c1-pad2_ net-_q2-pad1_ net-_i4-pad2_ Q2N2222
q2 net-_q2-pad1_ net-_q1-pad3_ net-_i1-pad2_ Q2N2907A
q1 gnd net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
q5 net-_c1-pad2_ net-_q5-pad2_ net-_i1-pad2_ Q2N2907A
q6 gnd net-_q6-pad2_ net-_q5-pad2_ Q2N2907A
q3 net-_q2-pad1_ net-_q2-pad1_ net-_i4-pad2_ Q2N2222
i1 net-_i1-pad1_ net-_i1-pad2_  dc 100m
q11 net-_i1-pad1_ net-_c1-pad1_ net-_q11-pad3_ Q2N2222
q12 net-_i1-pad1_ net-_q11-pad3_ net-_q10-pad2_ Q2N2222
q7 net-_i4-pad2_ net-_c1-pad2_ net-_i2-pad2_ Q2N2907A
q8 net-_i1-pad1_ net-_i2-pad2_ net-_q8-pad3_ Q2N2222
q9 net-_c1-pad1_ net-_q8-pad3_ net-_i4-pad2_ Q2N2222
i2 net-_i1-pad1_ net-_i2-pad2_  dc 100m
i3 net-_i1-pad1_ net-_c1-pad1_  dc 100m
q10 net-_c1-pad1_ net-_q10-pad2_ net-_i4-pad1_ Q2N2222
i4 net-_i4-pad1_ net-_i4-pad2_  dc 100m
q13 net-_i4-pad2_ net-_c1-pad1_ net-_i4-pad1_ Q2N2907A
r3  net-_q10-pad2_ net-_i4-pad1_ 500
c1  net-_c1-pad1_ net-_c1-pad2_ 15p
* Control Statements

.ends M5223_My