* Subcircuit M5223_final
.subckt M5223_final net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ 
* c:\fossee\esim\library\subcircuitlibrary\m5223_final\m5223_final.cir
.include M5223_My.sub
x1 net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad8_ net-_u1-pad1_ M5223_My
x2 net-_u1-pad6_ net-_u1-pad5_ net-_u1-pad4_ net-_u1-pad8_ net-_u1-pad7_ M5223_My
* Control Statements

.ends M5223_final